### PR TITLE
Various things

### PR DESCRIPTION
**Pull request by nmvdw**
This PR contains:
- Refactoring of parameterized NNOs. The uniqueness of parameterized NNOs is now proven for NNOs and then applied to parameterized NNOs
- Examples of functors that preserve Cartesian closedness (identity and composition)
- Scott open sets form a complete Heyting algebra
- An example of a compete Boolean algebra

### CODE REVIEW

File: UniMath/CategoryTheory/exponentials.v [hunk 1]
```diff
@@ -358,6 +358,112 @@ Section Preservation.
...
+    intros x y.
+    use is_z_isomorphism_path.
+    - exact (#G(preserves_exponentials_map E₁ E₂ HF x y)
+             · preserves_exponentials_map E₂ E₃ HG (F x) (F y)).
+    - apply comp_preserves_exponentials_eq.
+    - use is_z_isomorphism_comp.
+      + use functor_on_is_z_isomorphism.
+        apply HFE.
+      + apply HGE.
+  Qed.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/exponentials.v:464]:
```suggestion
  Defined.
```

File: UniMath/OrderTheory/DCPOs/Core/ScottTopology.v [hunk 2]
```diff
@@ -215,9 +272,25 @@ Section PropertiesScottTopology.
       exact (trans_way_below_le q₁ r).
   Qed.
 
+  Definition way_below_upper_scott_open_set
+             (CX : continuous_dcpo_struct X)
+             (x : X)
+    : scott_open_set X
+    := way_below_upper_set x ,, upper_set_is_scott_open CX x.
```
Comment (arnoudvanderleer) [inline UniMath/OrderTheory/DCPOs/Core/ScottTopology.v:279]: Can you use the constructor here?

File: UniMath/OrderTheory/DCPOs/Core/ScottTopology.v [hunk 3]
```diff
@@ -215,9 +272,25 @@ Section PropertiesScottTopology.
...
+
+  Proposition way_below_upper_scott_open_subset
+              (x₁ x₂ y : X)
```
Comment (arnoudvanderleer) [inline UniMath/OrderTheory/DCPOs/Core/ScottTopology.v:282]: Can these be implicit?

File: UniMath/OrderTheory/DCPOs/Core/ScottTopology.v [hunk 4]
```diff
@@ -273,3 +346,141 @@ Section PropertiesScottTopology.
...
+
+Arguments way_below_upper_set {X} x y /.
+
+(** * 9. More examples of Scott open sets *)
+
+(** ** 9.1. Intersection *)
+Proposition is_scott_open_intersection
+            {D : dcpo}
+            (P₁ P₂ : scott_open_set D)
+  : is_scott_open (λ (x : D), P₁ x ∧ P₂ x).
```
Comment (arnoudvanderleer) [inline UniMath/OrderTheory/DCPOs/Core/ScottTopology.v:358]: I believe `MoreFoundations/Subtypes.v` has a nice notation (and if not, it should have) of the intersection of two subtypes

File: UniMath/OrderTheory/DCPOs/Core/ScottTopology.v [hunk 5]
```diff
@@ -273,3 +346,141 @@ Section PropertiesScottTopology.
...
+  - exact (λ x, P₁ x ∧ P₂ x).
+  - exact (is_scott_open_intersection P₁ P₂).
+Defined.
+
+(** ** 9.2. Type-indexed unions *)
+Proposition is_scott_open_union
+            {D : dcpo}
+            {I : UU}
+            (P : I → scott_open_set D)
+  : is_scott_open (λ x : D, ∃ i : I, P i x).
```
Comment (arnoudvanderleer) [inline UniMath/OrderTheory/DCPOs/Core/ScottTopology.v:400]: This looks a lot like the union defined in `Subtypes.v`

File: UniMath/OrderTheory/DCPOs/Core/ScottTopology.v [hunk 6]
```diff
@@ -273,3 +346,141 @@ Section PropertiesScottTopology.
...
+      exact Hj.
+Qed.
+
+Definition scott_open_set_intersection
+           {D : dcpo}
+           (P₁ P₂ : scott_open_set D)
+  : scott_open_set D.
+Proof.
+  use make_scott_open_set.
+  - exact (λ x, P₁ x ∧ P₂ x).
```
Comment (arnoudvanderleer) [inline UniMath/OrderTheory/DCPOs/Core/ScottTopology.v:391]: Same as in line 358

File: UniMath/OrderTheory/DCPOs/Core/ScottTopology.v [hunk 7]
```diff
@@ -273,3 +346,141 @@ Section PropertiesScottTopology.
...
+Qed.
+
+Definition scott_open_set_union
+           {D : dcpo}
+           {I : UU}
+           (P : I → scott_open_set D)
+  : scott_open_set D.
+Proof.
+  use make_scott_open_set.
+  - exact (λ x, ∃ (i : I), P i x).
```
Comment (arnoudvanderleer) [inline UniMath/OrderTheory/DCPOs/Core/ScottTopology.v:428]: Same as at line 400

File: UniMath/OrderTheory/DCPOs/Core/ScottTopology.v [hunk 8]
```diff
@@ -273,3 +346,141 @@ Section PropertiesScottTopology.
...
+           ∏ (x : D),
+           P₁ x × Q x → P₂ x).
+  - exact pr1.
+Defined.
+
+(** ** 9.4. Binary unions *)
+Proposition is_scott_open_bin_union
+            {D : dcpo}
+            (P₁ P₂ : scott_open_set D)
+  : is_scott_open (λ (x : D), P₁ x ∨ P₂ x).
```
Comment (arnoudvanderleer) [inline UniMath/OrderTheory/DCPOs/Core/ScottTopology.v:449]: Again, this is the union from `Subtypes.v`

File: UniMath/OrderTheory/DCPOs/Core/ScottTopology.v [hunk 9]
```diff
@@ -273,3 +346,141 @@ Section PropertiesScottTopology.
...
+      exact Hi.
+Qed.
+
+Definition scott_open_set_bin_union
+           {D : dcpo}
+           (P₁ P₂ : scott_open_set D)
+  : scott_open_set D.
+Proof.
+  use make_scott_open_set.
+  - exact (λ x, P₁ x ∨ P₂ x).
```
Comment (arnoudvanderleer) [inline UniMath/OrderTheory/DCPOs/Core/ScottTopology.v:484]: Same as line 449

File: UniMath/OrderTheory/Lattice/CompleteHeyting.v [hunk 10]
```diff
@@ -26,8 +26,9 @@
  2. Operations of complete Heyting algebras
  3. Laws for complete Heyting algebras
  4. Greatest lower bounds for complete Heyting algebras
- 5. Derived laws for complete Heyting algebras
- 6. Complete Heyting algebras from greatest upper bounds
+ 5. Complete Heyting algebras from greatest upper bounds
+ 6. Basis
```
Comment (arnoudvanderleer) [inline UniMath/OrderTheory/Lattice/CompleteHeyting.v:30]:
```suggestion
 6. Bases
```
or
```suggestion
 6. Bases for complete Heyting algebras
```

File: UniMath/CategoryTheory/Arithmetic/NNO.v [hunk 11]
```diff
@@ -42,9 +42,98 @@ Proof.
 exact (pr2 (pr2 (pr2 n))).
 Qed.
 
+Section UMP.
```
[the remark this answers is not in the document]
Comment (arnoudvanderleer) [reply UniMath/CategoryTheory/Arithmetic/NNO.v:45]: Hahaha, of course, that makes sense. All the more reason to remove this acronym ^^

File: UniMath/CategoryTheory/Limits/Preservation.v [hunk 12]
```diff
@@ -354,6 +354,99 @@ Proof.
...
+    etrans.
+    {
+      rewrite functor_comp.
+      rewrite !assoc.
+      apply maponpaths_2.
+      apply (BinProductPr1Commutes
+               _ _ _
+               (preserves_binproduct_to_binproduct F HF _)).
+    }
+    refine (!_).
```
[the remark this answers is not in the document]
Comment (nmvdw) [reply UniMath/CategoryTheory/Limits/Preservation.v:402]: I personally prefer `refine (!_)`, because it explicitly indicates the path that I'm constructing (although they are equivalent).

[the remark this answers is not in the document]
Comment (arnoudvanderleer) [reply UniMath/CategoryTheory/Limits/Preservation.v:402]: All right.

File: UniMath/CategoryTheory/exponentials.v [hunk 13]
```diff
@@ -358,6 +358,112 @@ Section Preservation.
...
+          {BC₃ : BinProducts C₃}
+          {E₁ : Exponentials BC₁}
+          {E₂ : Exponentials BC₂}
+          {E₃ : Exponentials BC₃}
+          {F : C₁ ⟶ C₂}
+          {HF : preserves_binproduct F}
+          (HFE : preserves_exponentials E₁ E₂ HF)
+          {G : C₂ ⟶ C₃}
+          {HG : preserves_binproduct G}
+          (HGE : preserves_exponentials E₂ E₃ HG).
```
[the remark this answers is not in the document]
Comment (nmvdw) [reply UniMath/CategoryTheory/exponentials.v:406]: It depends a bit on the context. I developed the preservation of exponentials by identity/composition this way, because if you want to develop Cartesian closed via displayed categories (which is something that @Kfwullaert will be doing), you need the statement the exponentials separated. In fact, bundling everything together would make it harder to use it for that purpose, because then you need to bundle everything together when applying it. The other context in which we use exponentials and preservation of exponentials, is in first-order hyperdoctrines, where it is also doesn't really help that much to bundle everything via Cartesian closed categories. For this reason, it is not a good idea to rewrite this statement using Cartesian closed categories. While Cartesian closed categories as a data type can be added, I think it is better to add them once someone has a clear need for them rather than preemptively adding them.

**Comment by nmvdw** [comment]
> Most of it looks good, some changes would be nice. A handful of files in the OrderTheory package still need reviewing

I incorporated the comments that there currently are.

File: UniMath/CategoryTheory/exponentials.v (hunk 13 above)
[the remark this answers is not in the document]
Comment (arnoudvanderleer) [reply UniMath/CategoryTheory/exponentials.v:406]: Fair enough.

File: UniMath/OrderTheory/Lattice/Examples/RegularElements.v [hunk 14]
```diff
@@ -0,0 +1,623 @@
+(**********************************************************************************************
+
+ Regular elements in a complete Heyting algebra
+
+ Every complete Heyting algebra gives rise to a complete Boolean algebra, namely the complete
+ Heyting algebra of all regular elements.
+
+ More specifically, suppose that we have a complete Heyting algebra [H]. We say that an element
+ [x] is regular if [x = ¬ ¬ x]. The connective on regular elements are defined as follows.
```
Comment (benediktahrens) [inline UniMath/OrderTheory/Lattice/Examples/RegularElements.v:9]:
```suggestion
 [x] is regular if [x = ¬ ¬ x]. The connectives on regular elements are defined as follows.
```
